US09302989B2
N-(4-{[1-(2-methylbutyl)piperidin-4-yl]oxy}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 429, substituting 2-methylbutanal for isobutyraldehyde and N-(4-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide for N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, Pyridine-d5. Temp=90° C.) δ ppm 8.52-8.58 (m, 2H) 8.08 (s, 1H) 7.74 (d, J=8.85 Hz, 2H) 7.10 (d, J=4.58 Hz, 1H) 6.97-7.05 (m, 2H) 4.84 (d, J=6.71

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | N-(4-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | N1CCC(CC1)OC1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C19H22N4O2
reactant | N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H21N3O
product | N-(4-{[1-(2-methylbutyl)piperidin-4-yl]oxy}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | CC(CN1CCC(CC1)OC1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1)CC | C24H32N4O2
